US07101595B2
A solution comprising 20 g of 3-[(6-bromohexyloxy)methyl]-3-methyloxetane, 11.6 g of 4-hydroxybenzoic acid, 13 g of potassium carbonate and 150 ml of dimethylformamide was stirred at 90° C. for 4 hours. Water was added to the reaction liquid to terminate the reaction, and the liquid was extracted with ethyl acetate. The organic layer was washed with water, and the solvent was distilled off. A 5% sodium hydroxide aqueous solution was added to the resulting residue, and the solution was refluxed for 8 hours. Then, the solution was acidified with hydrochloric acid and extracted with ether, followed by drying on anhydrous magnesium sulfate. The solvent was distilled off to obtain 17 g of 4-[6-(3-methyloxetane-3-ylmethoxy)hexyloxy]benzoic acid. Melting point: 61° C.

reactant | 3-[(6-bromohexyloxy)methyl]-3-methyloxetane | 20 g | BrCCCCCCOCC1(COC1)C | C11H21BrO2
reactant | 4-hydroxybenzoic acid | 11.6 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | potassium carbonate | 13 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 4-[6-(3-methyloxetane-3-ylmethoxy)hexyloxy]benzoic acid | 17 g | CC1(COC1)COCCCCCCOC1=CC=C(C(=O)O)C=C1 | C18H26O5
